US06127354
N-(3-Phenylpropyl)formamide (5.70 g, 34.9 mmol) was dissolved in tetrahydrofuran (50 ml) and added dropwise to a suspension of sodium borohydride (1.58 g, 41.91 mmol) in tetrahydrofuran (100 ml), which was cooled to 7° C. A solution of iodine (4.42 g, 17.46 mmol) in tetrahydrofuran was added dropwise, while the temperature was kept at 7° C. After the addition was finished, the reaction mixture was warmed to reflux for 16 h. The reaction mixture was cooled to 7° C., and methanol (250 ml) was added dropwise. The solvent was removed in vacuo. The residue was dissolved in 20% aqueous sodium hydroxide solution (250 ml) and tert-butyl methyl ether (100 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (2×100 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (400 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent to give 2.76 g of N-methyl-N-(3-phenylpropyl)amine.

reactant | N-(3-Phenylpropyl)formamide | 34.9 mmol, 5.70 g | C1(=CC=CC=C1)CCCNC=O | C10H13NO
reactant | sodium borohydride | 41.91 mmol, 1.58 g | [BH4-].[Na+]
reactant | iodine | 17.46 mmol, 4.42 g | II | I2
reactant | methanol | 250 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-methyl-N-(3-phenylpropyl)amine | 2.76 g | CNCCCC1=CC=CC=C1 | C10H15N
